US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.724 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.175 g), stirred for 15 minutes and treated with the tosylate of 2-(4-trifluoromethylphenoxy)ethanol (1.8 g). The mixture was heated at 60° C. overnight and worked up as in Example 20. The material was purified by HPLC (dichloromethane-hexane; 4:1 ) and crystallized from diethyl ether-hexane to provide 1 g of alpha-oxo-4-[[2-(4-trifluoromethylphenoxy)ethyl]oxy] benzeneacetic acid methyl ester, mp 96°-98° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.724 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.175 g | [H-].[Na+]
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | 2-(4-trifluoromethylphenoxy)ethanol | 1.8 g | FC(C1=CC=C(OCCO)C=C1)(F)F | C9H9F3O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | alpha-oxo-4-[[2-(4-trifluoromethylphenoxy)ethyl]oxy] benzeneacetic acid methyl ester | 1 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)C(F)(F)F)=O)=O | C18H15F3O5
